US05635510
1.4 Synthesis of 3-(3,4-dichloro-phenyl)-1-(benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine
3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (6.37 g, 24.5 mmol) was dissolved in dichloromethane (100 mL) at -78° C. and treated with 4-methylmorpholine (5.5 mL, 50 mmol, 2.0 eq.) and benzoyl chloride (3.0 mL, 25.8 mmol, 1.05 eq. ). The solution was allowed to warm to 0° C. and stir for 2 hours. The reaction mixture was washed with 1N HCl and 5% NaHCO3, and the organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (300 g) with a gradient from ethyl acetate to 10% methanol in dichloromethane to give 6.32 g (71%) of the title compound.

reactant | 3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 24.5 mmol, 6.37 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 4-methylmorpholine | 50 mmol, 5.5 mL, 2.0 eq. | CN1CCOCC1 | C5H11NO
reactant | benzoyl chloride | 25.8 mmol, 3.0 mL, 1.05 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(3,4-dichloro-phenyl)-1-(benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 6.32 g, 71% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC=CC=C1)=O)CCO | C19H19Cl2NO2
